US07619100B2
Referential Example 1-3 1-(Cyclopropylmethyl)piperazine
Lithium aluminium hydride (770 mg, 20.3 mmol) was suspended in tetrahydrofuran (150 mL), 1-(cyclopropylcarbonyl)piperazine (1.56 g, 10.1 mmol) was gradually added thereto, and the reaction mixture was heated under reflux for 30 minutes. The reaction mixture was cooled to room temperature, and 0.8 mL of water, 0.8 mL of a 15% aqueous solution of sodium hydroxide and 2.3 mL of water were sequentially gradually added thereto. The precipitated insoluble matter was removed by filtration through Celite, and the filtrate was evaporated to give the title compound (1.40 g) as a colorless oil. The product was used for the synthesis of (8E,12E,14E)-7-((4-cyclopropylmethylpiperazin-1-yl)carbonyl)oxy-3,6,16,21-tetrahydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (the compound of Example 27) without further purification.

reactant | Lithium aluminium hydride | 20.3 mmol, 770 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(cyclopropylcarbonyl)piperazine | 10.1 mmol, 1.56 g | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
reactant | water | 0.8 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 2.3 mL | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-(Cyclopropylmethyl)piperazine | 1.40 g | C1(CC1)CN1CCNCC1 | C8H16N2
